US06235900B1
Step A. 5-Fluoro-2-methyl benzoylchloride
A suspension of 5-fluoro-2-methyl benzoic acid (2.31 g, 15.0 mmol) in dichloromethane (30 mL) containing a few drops of dimethylformamide was treated dropwise under nitrogen with oxalyl chloride (1.6 mL, 18.3 mmol). After gas evolution subsided, the reaction mixture was refluxed for an additional 10 minutes, and then evaporated to dryness. The crude acid chloride was used as such in the next step.

reactant | 5-fluoro-2-methyl benzoic acid | 15.0 mmol, 2.31 g | FC=1C=CC(=C(C(=O)O)C1)C | C8H7FO2
reactant | oxalyl chloride | 18.3 mmol, 1.6 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
catalyst | dimethylformamide | a few drops | CN(C=O)C | C3H7NO
product | 5-Fluoro-2-methyl benzoylchloride | FC=1C=CC(=C(C(=O)Cl)C1)C | C8H6ClFO
